US07122666B2
5(iv)′ 2-(3-Ethoxycarbonyl-2-oxopropyl)indoline
In a similar manner to that described in Preparative Example 1(iii)′ above, a debenzylation reaction using hydrogen gas and palladium hydroxide on carbon was performed, using 1-benzyloxycarbonyl-2-(3-ethoxycarbonyl-2-oxopropyl)indoline [obtained as described in Preparative Example 5(iii)′ above] instead of (2S, 4R)-1-benzyloxycarbonyl-2-(3-ethoxycarbonyl-2-oxopropyl)-4-methoxypyrrolidine, to give the title compound as an orange oil (yield: quantitative).

reactant | hydrogen | [H][H] | H2
reactant | 1-benzyloxycarbonyl-2-(3-ethoxycarbonyl-2-oxopropyl)indoline | C(C1=CC=CC=C1)OC(=O)N1C(CC2=CC=CC=C12)CC(CC(=O)OCC)=O | C22H23NO5
reactant | (2S, 4R)-1-benzyloxycarbonyl-2-(3-ethoxycarbonyl-2-oxopropyl)-4-methoxypyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC)CC(CC(=O)OCC)=O | C19H25NO6
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
product | 2-(3-Ethoxycarbonyl-2-oxopropyl)indoline | yield: quantitative | C(C)OC(=O)CC(CC1NC2=CC=CC=C2C1)=O | C14H17NO3
